US04284631
7-[2-(2-Formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.), conc. hydrochloric acid (0.82 g.), methanol (13.3 ml.) and tetrahydrofuran (25 ml.) were treated in a similar manner to that of Example 1-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.75 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC#N | C15H12N6O6S2
reactant | hydrochloric acid | 0.82 g | Cl | ClH
reactant | methanol | 13.3 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.75 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC#N | C14H12N6O5S2
